Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain, DOE
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o M with history of thyroid surgery on levothyroxine 
presenting with chest pain, found to have a pulmonary embolus.

He reports that he has had a few weeks of intermittent ongoing 
chest pain. He reported acute, severe chest pain, which occurred 
on ___, while he was travelling in ___. He denied 
radiating pain, nausea, vomiting at this time. Apparently, this 
lasted for a few hours and to some extent it greatly resolved.   
He took no medications at that time and did not see a doctor, 
and it eventually mostly resolved however persisted at a low 
level pain. He reports that over the weekend, he experienced 
dyspnea while playing badminton and also dyspnea while climbing 
two sets of stairs. This was very atypical for him and concerned 
him. He was experiencing left sided, nonradiating chest pain at 
that time, which he rates as ___ on a ten point scale. He was 
seen by his PCP on the day of admission who referred him to 
___. 

He otherwise denies orthopnea, leg swelling, or cough. He does 
endorse a plane ride which occurred approximately two months ago 
when he travelled to ___. He reports no other chest pain, 
except one incidence of chest pain which occurred a few years 
ago.

In the ED, initial vitals were:  97.9 83 141/98 18 97% RA 
Exam was unremarkable.
Labs notable for normal CBC, normal BMP with Cr of 1.2, ___ 10.8, 
PTT 38.5, INR 1.0. ProBNP 28. 
CTA notable for pulmonary embolus at the right pulmonary artery 
bifurcation and left lobar pulmonary arteries with evidence of 
straining of the septum, which may represent right heart strain.
Patient was given 80 mg lovenox.
Decision was made to admit for monitoring.

Vitals prior to transfer:   74 137/83 20 95% RA 

On the floor, the patient appears comfortable and tells the 
story as above. 
 
ROS:  
(+) Per HPI  
(-) Denies nausea, vomiting, No recent change in bowel or 
bladder habits. 

 
Past Medical History:
- Thyroid nodule with prior thyroidectomy
 
Social History:
___
Family History:
Mother: + pulmonary embolus, +repeat pulmonary embolus 
(deceased)
Father: + autoimmune pancreatic disease
Sister: + autoimmune hepatitis
 
Physical Exam:
ADMIT PHYSICAL:
===============
Vital Signs:  98.6 PO 157 / 100 72 18 96 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: PERRL, alert, oriented, fluent speech, ___ strength 
upper/lower extremities

DISCHARGE PHYSICAL:
===================
98.0 131/94 85 18 96 RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
Neck: No JVD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops, no RV heave or R sided S3  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: PERRL, alert, oriented, fluent speech, ___ strength 
upper/lower extremities 
 
Pertinent Results:
ADMIT LABS
==========
___ 05:57PM BLOOD WBC-9.1 RBC-5.28 Hgb-16.1 Hct-49.1 MCV-93 
MCH-30.5 MCHC-32.8 RDW-13.2 RDWSD-44.8 Plt ___
___ 05:57PM BLOOD Neuts-59.4 ___ Monos-7.2 Eos-2.3 
Baso-0.6 Im ___ AbsNeut-5.40 AbsLymp-2.73 AbsMono-0.65 
AbsEos-0.21 AbsBaso-0.05
___ 05:57PM BLOOD ___ PTT-38.5* ___
___ 05:57PM BLOOD Glucose-87 UreaN-16 Creat-1.2 Na-141 
K-4.1 Cl-102 HCO3-27 AnGap-16
___ 05:57PM BLOOD Calcium-9.8 Phos-4.5 Mg-2.4

PERTINENT LABS
==============
___ 05:57PM BLOOD proBNP-28
___ 05:57PM BLOOD cTropnT-<0.01
___ 09:16AM BLOOD D-Dimer-PND

MICRO
=====
NONE

STUDIES/IMAGING
===============
CTA Chest ___
1. Bilateral pulmonary emboli with possible mild right heart 
strain 
2. No pulmonary infarct 
3. Minimal bibasilar atelectasis 

LENIs ___
1. Short-segment, nonocclusive thrombus in the proximal right 
popliteal vein. 
2. No evidence of deep venous thrombosis in the left lower 
extremity veins. 

DISCHARGE LABS
==============
___ 07:45AM BLOOD WBC-7.6 RBC-5.39 Hgb-16.6 Hct-49.2 MCV-91 
MCH-30.8 MCHC-33.7 RDW-13.2 RDWSD-44.4 Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD ___ PTT-45.5* ___
___ 07:45AM BLOOD Glucose-82 UreaN-13 Creat-1.1 Na-139 
K-4.2 Cl-99 HCO3-28 AnGap-16
___ 07:45AM BLOOD Calcium-9.7 Phos-3.4 Mg-2.___ with history of thyroid surgery on levothyroxine who 
presented with chest pain and DOE, found to have a PE.

# Pulmonary Embolus: Patient presented with left sided chest 
pain, found to have bilateral pulmonary emboli with possible 
mild right heart strain seen on CTA. Troponin and BNP WNL.  ECG 
without signs of R heart strain eg. RVT or RAD (though possible 
incomplete R bundle branch block, unclear if this is new).  
LENIs showed R proximal popliteal DVT.  Classified as Low-Risk 
PE, no trop leak/elevated BNP and no HD instability.  Whether PE 
was provoked or unprovoked is complicated.  No obvious provoking 
factors other than prolonged flights in ___ about 2 weeks 
prior to first experiencing chest pain.  Patient does have 
family hx of PE (mother).  Patient received 80mg Lovenox and 
transferred to ___ prior to discharge.  Patient to 
follow-up with outpatient hematologist to determine length of 
treatment and monitor for side effects, also to possibly pursue 
hypercoagulability work up given family hx of PE/autoimmune 
disease.  Given recent CHEST guidelines from ___, NOACs now 
considered first line therapy for VTE without diagnosis of 
cancer.  Ambulatory sats prior to discharge: 95-96%, HR ___. 
 

#  Hypothyroidism: He was continued on home levyothyroxine.
- Continue home levothyroxine 150 mcg daily

TRANSITIONAL ISSUES
===================
- Patient started on ___ need to follow-up with 
outpatient hematologist to determine further thrombophilia 
work-up and length of treatment (needs referral from primary 
care doctor)
- Can consider repeat D-Dimer/LENIs in 3 months to determine 
further length of need
- Will need to take 15 mg BID for 3 weeks (til ___, then 20 
mg daily thereafter
# CODE: Full (confirmed)
# CONTACT: wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 150 mcg PO DAILY 
2. Aspirin 325-650 mg PO DAILY:PRN pain 

 
Discharge Medications:
1.  ___ 15 mg PO BID 
RX ___ [___] 15 mg (42)- 20 mg (9) ___ tablets(s) 
by mouth Once to twice daily as instructed Disp #*1 Dose Pack 
Refills:*0 
2.  Levothyroxine Sodium 150 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Pulmonary Embolism

Secondary Diagnosis
===================
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you were having chest 
pain and shortness of breath.  You had blood tests done that 
showed you were not having a heart attack.  A CT scan of your 
chest revealed numerous clots in both lungs (pulmonary 
embolism).  You were treated with blood thinners (Lovenox and 
then transferred to ___ prior to your discharge).  You 
should continue taking ___ for the time being.  The 
duration of your treatment will be determined with an outpatient 
hematologist, to whom you will be referred by your primary care 
doctor, ___ have scheduled an appointment for you 
___.

You should take 15 mg twice a day for 3 weeks (until ___, then 20 mg once a day.

Wishing you the best,
Your ___ team 
 
Followup Instructions:
___